US09126998B2
rac-Benzyl (2-hydroxy-3-isopropoxypropyl)carbamate
1 g of rac-1-amino-3-isopropoxypropan-2-ol (7.5 mmol, 1 equivalent) were initially charged in 25 ml of THF, and 1.16 ml of benzyl chloroformate (8.3 mmol, 1.1 equivalents), 3.9 ml of diisopropylethylamine (22.5 mmol, 3 equivalents) and 183 mg of N,N-dimethylaminopyridine (1.5 mmol, 0.2 equivalents) were added. The reaction mixture was stirred at RT, and after about 30 min 5 ml of DMF were added. After a further 2.5 h at RT, the mixture was concentrated to dryness. The residue was taken up in ethyl acetate and washed with saturated aqueous sodium bicarbonate solution and then with saturated aqueous sodium chloride solution. The organic phase was dried over magnesium sulphate, filtered and concentrated. The residue was used without further purification for the next reaction.

reactant | rac-1-amino-3-isopropoxypropan-2-ol | 7.5 mmol, 1 g, 1 equivalent | NCC(COC(C)C)O | C6H15NO2
reactant | benzyl chloroformate | 8.3 mmol, 1.16 ml, 1.1 equivalents | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | diisopropylethylamine | 22.5 mmol, 3.9 ml, 3 equivalents | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | rac-Benzyl (2-hydroxy-3-isopropoxypropyl)carbamate | OC(CNC(OCC1=CC=CC=C1)=O)COC(C)C | C14H21NO4
